US04643990
A mixture of docosanoic acid (500 mg) and thionyl chloride (2 ml) in benzene (5 ml) was refluxed for 1 hour. After removal of the solvent under reduced pressure, the residue was taken up in benzene and benzene was evaporated off. This operation was repeated three times to give crude docosanoyl chloride. Meanwhile, a solution of dibenzyl N-(N-tert-butoxycarbonyl-L-valyl)-L-glutamate (773 mg) and anisole (0.25 ml) in trifluoroacetic acid (1 ml) was stirred at 0° C. for 1 hour. Evaporation of trifluoroacetic acid under reduced pressure gave a residue which was taken up in benzene. Benzene was distilled off by using a high vacuum pump. This operation was repeated three times to leave crude dibenzyl N-(L-valyl)-L-glutamate, which was dissolved in tetrahydrofuran (5 ml). To this solution were added triethylamine (0.7 ml) and a solution of docosanoyl chloride prepared as mentioned above in tetrahydrofuran (3 ml). After the resulting mixture was stirred at room temperature for 3 hours, the solvent was removed under reduced pressure, and the residue was dissolved in chloroform. The chloroform solution was washed with 1N sodium hydroxide solution, 1N hydrochloric acid solution, and an aqueous solution of sodium bicarbonate successively, and then dried over magnesium sulfate. After evaporation of the solvent, the residue was purified by being subjected to a silica gel column chromatography. Elution with chloroform and an usual work-up afforded dibenzyl N-(N-docosanoyl-L-valyl)-L-glutamate (520 mg, powder).

reactant | docosanoic acid | 500 mg | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O | C22H44O2
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dibenzyl N-(N-tert-butoxycarbonyl-L-valyl)-L-glutamate | 773 mg | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C29H38N2O7
reactant | anisole | 0.25 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | docosanoyl chloride | C(CCCCCCCCCCCCCCCCCCCCC)(=O)Cl | C22H43ClO
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
product | dibenzyl N-(N-docosanoyl-L-valyl)-L-glutamate | 520 mg | C(CCCCCCCCCCCCCCCCCCCCC)(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C46H72N2O6
